US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(3-dibenzylsulfamoyl-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-147)
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (300 mg, 0.693 mmol) was dissolved in DMF (10 mL) at room temperature. Cs2CO3 (1.12 g, 3.46 mmol) was added followed by 3-chloro-propane-1-sulfonic acid dibenzylamide (350 mg, 1.03 mmol) and the reaction was allowed to stir overnight. The mixture was partitioned between methylene chloride and water; the organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (2/1 hexanes/ethyl acetate) to afford the product.

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.693 mmol, 300 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | Cs2CO3 | 3.46 mmol, 1.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-propane-1-sulfonic acid dibenzylamide | 1.03 mmol, 350 mg | C(C1=CC=CC=C1)N(S(=O)(=O)CCCCl)CC1=CC=CC=C1 | C17H20ClNO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{1-[4-(3-dibenzylsulfamoyl-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCS(N(CC1=CC=CC=C1)CC1=CC=CC=C1)(=O)=O)=O)C | C42H42ClN3O5S
